US04518597
6-[4-(3-Methyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 3-methyl-thiophenol.

reactant | 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C14H18ClNO3
reactant | 3-methyl-thiophenol | CC=1C=C(C=CC1)S | C7H8S
product | 6-[4-(3-Methyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | CC=1C=C(C=CC1)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C21H25NO3S
